US06316415B1
To 1.15 g (10.0 mMol) of KOtBu (potassium tertbutoxide) in dimethylformamide (30 mL) at 0° C. under nitrogen and nitromethane (1.75 mL, 32.5 mMol) was added 3-(1,2,3,4-tetrahydro-1-oxo-isoquinoline-2-yl)-acetamino-4-oxo-pentanoic acid, tert-butyl ester (3.6 g, 10.0 mMol). After 3 hours at 0° C. the reaction was quenched by addition of 1.5 mL of acetic acid and partitioned between ethyl acetate (200 mL) and water (20 mL). The organic phase was washed with saturated aqueous sodium hydrogen carbonate and water, dried over sodium sulfate, and concentrated under reduced pressure. Purification of the residue over silica (elution with dichloromethane/methanol 20:1) gave 2.7 g of 3-(1, 2, 3, 4-tetrahydro-1-oxo-isoquinoline-2-yl)-acetamino-4-hydroxy-5-nitro-pentanoic acid, tert-butyl ester as 1:1 mixture of diastereomers.

reactant | KOtBu | 10.0 mMol, 1.15 g | CC(C)(C)[O-].[K+]
reactant | nitromethane | 32.5 mMol, 1.75 mL | [N+](=O)([O-])C | CH3NO2
reactant | 3-(1,2,3,4-tetrahydro-1-oxo-isoquinoline-2-yl)-acetamino-4-oxo-pentanoic acid, tert-butyl ester | 10.0 mMol, 3.6 g | O=C1N(CCC2=CC=CC=C12)C(C(C(=O)OC(C)(C)C)NC(=O)C)C(C)=O | C20H26N2O5
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 3-(1, 2, 3, 4-tetrahydro-1-oxo-isoquinoline-2-yl)-acetamino-4-hydroxy-5-nitro-pentanoic acid, tert-butyl ester | 2.7 g | O=C1N(CCC2=CC=CC=C12)C(C(C(=O)OC(C)(C)C)NC(=O)C)C(C[N+](=O)[O-])O | C20H27N3O7
